US08026237B2
To a solution of 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester (0.96 g) in methanol was added 4 N NaOH (6 mL). The reaction mixture was then heated to reflux with stirring overnight. After cooling, solvent was removed and the crude material was diluted with water. Solids were removed by filtration and washed with water. The aqueous filtrate was acidified with formic acid to precipitate the product. The precipitates were collected by filtration and washed with water, and then dried under high vacuum to afford 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid (0.30 g). MS (ES): 284 (MH+).

reactant | 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.96 g | C(C)OC(=O)C=1NC(=C(C1C)C1=C(C=CC=C1)C(F)(F)F)C | C16H16F3NO2
reactant | NaOH | 4 N, 6 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid | 0.30 g | CC1=C(NC(=C1C1=C(C=CC=C1)C(F)(F)F)C)C(=O)O | C14H12F3NO2
